US07786104B2
N-[6-(3-Hydroxypyrrolidin-1-yl)pyridin-3-yl]-5-fluoro-1-(3-fluorobenzyl)-1H-indole-2-carboxamide
A mixture of 0.4 g (1.01 mmol) of N-[6-chloropyridin-3-yl]-5-fluoro-1-(3-fluorobenzyl)-1H-indole-2-carboxamide, prepared in step 3.1, and 0.81 ml (10.06 mmol) of 3-hydroxypyrrolidine in 1.2 ml of N-methylpyrrolidinone is heated for 20 minutes in a microwave oven regulated at 200° C. under 300 watts. The reaction mixture is then poured into 50 ml of water. A solid is recovered by filtration and purified by silica column chromatography, elution being carried out with a mixture of dichloromethane and methanol. The resulting solid is then recrystallized from a mixture of methanol and dichloromethane. 0.22 g of a solid is recovered by filtration and dried under reduced pressure.

reactant | N-[6-chloropyridin-3-yl]-5-fluoro-1-(3-fluorobenzyl)-1H-indole-2-carboxamide | 1.01 mmol, 0.4 g | ClC1=CC=C(C=N1)NC(=O)C=1N(C2=CC=C(C=C2C1)F)CC1=CC(=CC=C1)F | C21H14ClF2N3O
reactant | 3-hydroxypyrrolidine | 10.06 mmol, 0.81 ml | OC1CNCC1 | C4H9NO
reactant | water | 50 ml | O | H2O
solvent | N-methylpyrrolidinone | 1.2 ml | CN1C(CCC1)=O | C5H9NO
product | N-[6-(3-Hydroxypyrrolidin-1-yl)pyridin-3-yl]-5-fluoro-1-(3-fluorobenzyl)-1H-indole-2-carboxamide | OC1CN(CC1)C1=CC=C(C=N1)NC(=O)C=1N(C2=CC=C(C=C2C1)F)CC1=CC(=CC=C1)F | C25H22F2N4O2
